US08217027B2
3-(2-methoxyphenyl)propanoic acid (1.0 g, 5.55 mmol) was dissolved in THF (27.7 ml). A solution of borane tetrahydrofuran complex (12.21 ml, 12.21 mmol) was added slowly. The reaction was stirred for about 4 h. Methanol was added and the solvents removed. This process was repeated twice. The solution was passed through a short pad of silica gel with 1:1 ethyl acetate/heptane And then rotovapped to give 3-(2-methoxyphenyl)propan-1-ol (0.946 g, 5.69 mmol, 103% yield) as a colorless oil. 1H NMR (400 MHz, CDCl3) δ ppm 7.19 (dt, 1H), 7.15 (dd, 1H), 6.90 (dt, 1H), 6.86 (d, 1H), 3.84 (s, 3H), 3.60 (t, 2H), 2.73 (t, 2H), −1.92-1.79 (m, 2H), 1.76 (s, 1H),

reactant | 3-(2-methoxyphenyl)propanoic acid | 5.55 mmol, 1.0 g | COC1=C(C=CC=C1)CCC(=O)O | C10H12O3
reactant | Methanol | CO | CH4O
solvent | THF | 27.7 ml | C1CCOC1 | C4H8O
product | 3-(2-methoxyphenyl)propan-1-ol | 5.69 mmol, 0.946 g, 103% yield | COC1=C(C=CC=C1)CCCO | C10H14O2
